US04573062
A 200 ml. four-necked flask equipped with a condenser tube and a thermometer was charged with 36 g of p-acetoxybenzoic acid and 71.4 g of thionyl chloride, and they were reacted at 50° C. for 4 hours. The excess of thionyl chloride was evaporated under reduced pressure to give p-acetoxybenzoyl chloride. Then, a 300 ml four-necked flask equipped with a condenser tube, a thermometer and a dropping funnel was charged with 45.7 g of benzyl p-hydroxybenzoate, 20.2 g of triethylamine and 100 ml of toluene. The temperature of the flask was raised to 30° C., and a solution of 39.7 g of p-acetoxybenzoyl chloride in 50 g of toluene was added dropwise over 1 hour, and the reaction was carried out at 50° C. for 30 minutes. After cooling, the reaction mixture was washed with three 50 ml portions of water, and the solvent was evaporated under reduced pressure. Recrystallization of the residue from methanol gave benzyl p-(p-acetoxybenzoyloxy)benzoate.

reactant | benzyl p-hydroxybenzoate | 45.7 g | OC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C14H12O3
reactant | triethylamine | 20.2 g | C(C)N(CC)CC | C6H15N
reactant | p-acetoxybenzoyl chloride | 39.7 g | C(C)(=O)OC1=CC=C(C(=O)Cl)C=C1 | C9H7ClO3
solvent | toluene | 50 g | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | benzyl p-(p-acetoxybenzoyloxy)benzoate | C(C)(=O)OC1=CC=C(C(=O)OC2=CC=C(C(=O)OCC3=CC=CC=C3)C=C2)C=C1 | C23H18O6
